US08168821B2
tert-Butyl 4-[(3E)-2-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-4-(2-{[4-(trifluoromethoxy)-benzyl]oxy}phenyl)but-3-en-1-yl]benzoate
118 mg (0.46 mmol) of 4-trifluoromethoxybenzyl bromide and 98 mg (0.71 mmol) of anhydrous potassium carbonate are added to a solution of 170 mg (0.36 mmol) of tert-butyl 4-[(3E)-2-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate in 3 ml of dry acetonitrile, and the mixture is heated under reflux for 12 hours. The mixture is then concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. The organic phase is concentrated. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 5:1). This gives 155 mg (67% of theory) of a colorless oil.

reactant | 4-trifluoromethoxybenzyl bromide | 0.46 mmol, 118 mg | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
reactant | potassium carbonate | 0.71 mmol, 98 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl 4-[(3E)-2-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-4-(2-hydroxyphenyl)but-3-en-1-yl]benzoate | 0.36 mmol, 170 mg | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)\C=C\C1=C(C=CC=C1)O)=O | C30H38O5
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | tert-Butyl 4-[(3E)-2-{2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}-4-(2-{[4-(trifluoromethoxy)-benzyl]oxy}phenyl)but-3-en-1-yl]benzoate | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)\C=C\C1=C(C=CC=C1)OCC1=CC=C(C=C1)OC(F)(F)F)=O | C38H43F3O6
